US07884112B2
Pyridine-3-carboxylic acid N′-(5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)hydrazide
To a solution of nicotinic acid hydrazide (35 mg, 0.25 mmol) in DMF (5 mL) was added triethylamine (88 μL, 0.64 mmol), 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 8, 50 mg, 0.25 mmol), HOBt (34 mg, 0.25 mmol) and EDCI (50 mg, 0.28 mmol). The mixture was allowed to stir at rt for 16 h. The solvent was removed in vacuo and the residue was partitioned between water (100 mL) and ethyl acetate (100 mL). The organic layer was dried (MgSO4) and concentrated in vacuo to give an oil, which was purified by flash chromatography on silica gel (dichloromethane/methanol, 9/1) to give the title compound. m/z (ES+)=316 [M+H]+; RT=2.62 min.

reactant | nicotinic acid hydrazide | 0.25 mmol, 35 mg | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
reactant | triethylamine | 0.64 mmol, 88 μL | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 0.25 mmol, 50 mg | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | HOBt | 0.25 mmol, 34 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.28 mmol, 50 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Pyridine-3-carboxylic acid N′-(5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)hydrazide | ClC=1C=C2C(=CN1)NC(=C2)C(=O)NNC(=O)C=2C=NC=CC2 | C14H10ClN5O2
